US06342622B1
To a one-necked flask of 500 ml, fitted with an dropping funnel and on top of the funnel a condenser, was added 10.19 g (35.2 mmol) of 6-phenyl-2-bromoindanol, 0.671 g (0.10 mol %) p-toluenesulfonic acid and 350 ml of toluene. After 7 hours of refluxing the mixture was diluted with ether and extracted with water and water/NaHCO3. The organic layer was dried over Na2SO4. The Na2SO4 was filtered off and the filtrate was evaporated under reduced pressure. The solid material was dissolved in hot n-pentane and recrystallized giving 7.56 g (27.9 mmol) of 5-phenyl-2-bromoindene. Yield 79%.

reactant | 6-phenyl-2-bromoindanol | 35.2 mmol, 10.19 g | C1(=CC=CC=C1)C1=CC=C2CC(C(C2=C1)O)Br | C15H13BrO
reactant | p-toluenesulfonic acid | 0.671 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 5-phenyl-2-bromoindene | 27.9 mmol, 7.56 g, Yield 79% | C1(=CC=CC=C1)C=1C=C2C=C(CC2=CC1)Br | C15H11Br
